US06071920
Preparation of 1-(2,5-dichlorobenzyl)piperazine (Compound 14B)
A solution containing 13 g of 1-(2,5-dichlorobenzyl)-4-ethoxycarbonylpiperazine in 35 mL of 37% HCl was stirred for 40 h at reflux. Subsequently, 30 mL of water and 30 mL of EtOAc were added at room temperature, adjusting the pH to 11 via addition of 35% NaOH. The organic phase, which was dried on anhydrous sodium sulphate, was evaporated to dryness under vacuum. The crude was purified via flash chromatography (CHCl3 --MeOH 7:3) giving 4.46 g (50%) of the title compound.

reactant | 1-(2,5-dichlorobenzyl)-4-ethoxycarbonylpiperazine | 13 g | ClC1=C(CN2CCN(CC2)C(=O)OCC)C=C(C=C1)Cl | C14H18Cl2N2O2
reactant | water | 30 mL | O | H2O
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 35 mL | Cl | ClH
product | 1-(2,5-dichlorobenzyl)piperazine | 4.46 g, 50% | ClC1=C(CN2CCNCC2)C=C(C=C1)Cl | C11H14Cl2N2
